US07247734B2
This compounds was synthesised in the same manner as described above. 6-Chloro-3-(4′-fluorobiphenyl-4-yl)-7-hydroxy-chromen-4-one (0.12 g, 0.33 mmol), Hydrazine hydrate (5 ml). The quenched reaction was extracted into ethyl acetate, washed (water), dried (MgSO4), and the solvent removed under vacuum to give 4-Chloro-6-[4-(4′-fluoro-biphenyl-4-yl)-1H-pyrazol-3-yl]-benzene-1,3-diol as a white solid (0.08 g, 63.7%).

reactant | 6-Chloro-3-(4′-fluorobiphenyl-4-yl)-7-hydroxy-chromen-4-one | 0.33 mmol, 0.12 g | ClC=1C=C2C(C(=COC2=CC1O)C1=CC=C(C=C1)C1=CC=C(C=C1)F)=O | C21H12ClFO3
reactant | Hydrazine hydrate | 5 ml | O.NN
product | 4-Chloro-6-[4-(4′-fluoro-biphenyl-4-yl)-1H-pyrazol-3-yl]-benzene-1,3-diol | 0.08 g, 63.7% | ClC1=C(C=C(C(=C1)C1=NNC=C1C1=CC=C(C=C1)C1=CC=C(C=C1)F)O)O | C21H14ClFN2O2
